US04328225
A mixture of 870 mg of the syn isomer of benzhydryl 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(2-iodoethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate [described in Belgium Pat. No. 875,217], 131 mg of thiourea and 1.7 ml of anhydrous hexamethylphosphorotriamide was stirred for 32 hours and 75 ml of isopropyl ether were added thereto with stirring. The mixture was decanted and 45 ml of ethyl ether were added thereto. The mixture was vacuum filtered to obtain 1.229 g of solvated syn isomer of benzhydryl 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(2-aminoiminomethylthioethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate hydroiodide melting at ≃100° C.

reactant | benzhydryl 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(2-iodoethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(C(=NOCCI)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C49H42IN5O7S2
reactant | thiourea | 131 mg | NC(=S)N | CH4N2S
reactant | isopropyl ether | 75 ml | C(C)(C)OC(C)C | C6H14O
reactant | hexamethylphosphorotriamide | 1.7 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | benzhydryl 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(2-aminoiminomethylthioethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate hydroiodide | I.C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(C(=NOCCSC=NN)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C50H45N7O7S3.HI/c1-33(58)62-29-36-30-66-47-42(46(60)57(47)43(36)48(61)64-44(34-17-7-2-8-18-34)35-19-9-3-10-20-35)54-45(59)41(56-63-27-28-65-32-52-51)40-31-67-49(53-40)55-50(37-21-11-4-12-22-37,38-23-13-5-14-24-38)39-25-15-6-16-26-39;/h2-26,31-32,42,44,47H,27-30,51H2,1H3,(H,53,55)(H,54,59);1H/t42?,47-;/m1./s1
